US05686480
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-methylamine (3.1 g), sodium cyanoborohydride (1.1 g) and glacial acetic acid (2 cm3) in methanol (50 cm3) was cooled to 0° C. and formaldehyde solution (38% formaldehyde in methanol; 2 cm3) was added. The mixture was stirred at 0° C. for 90 minutes, with mild effervescence observed. The mixture was basified with aqueous sodium hydroxide (1 mol dm-3 ; 30 cm3), diluted with water (50 cm3) and saturated with sodium chloride before extraction with ethyl acetate (2×50 cm3). The organic phases were dried (MgSO4), filtered and concentrated to give (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-dimethylamine as an orange foam (3.17 g; 96%); δH (360 MHz; CDCl3) 2.35 [6H, s, N(CH3)2 ], 2.73 (2H, t, J 7.7, --CH2 --), 2.95 (2H, t, J 7.7, --CH2 --), 3.59 (2H, s, --CH2N), 7.17-7.26 (3H, m, 3 of ArH) and 7.77 (1H, d, J 7, 1 of ArH); m/z (CI+ ; NH3) 455 (M2H+ ; 3%) and 228 (MH+ ; 100).

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-methylamine | 3.1 g | N1N=C(C=2CCC3=C(C12)C=CC=C3)CNC | C13H15N3
reactant | sodium cyanoborohydride | 1.1 g | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 2 cm3 | C=O | CH2O
reactant | sodium hydroxide | 1 mol dm-3, 30 cm3 | [OH-].[Na+]
solvent | methanol | 50 cm3 | CO | CH4O
solvent | water | 50 cm3 | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2 cm3 | C(C)(=O)O | C2H4O2
product | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-dimethylamine | N1N=C(C=2CCC3=C(C12)C=CC=C3)CN(C)C | C14H17N3
